Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Melena, Hypotension
 
Major Surgical or Invasive Procedure:
___: EGD with epinephrine and endoclip placement

 
History of Present Illness:
___ yo w/ pmhx of CAD s/p stent (___) atrial fibrillation on 
Xarelto, CKD ___ s/p nephrectomy ___ RCC, ?HFpEF who underwent 
recent EGD w/ polypectomy and clip placement presenting w/ 
dizziness, hypotension and melanotic stool at home. Pt was 
referred from his PCP's office where he was found to be 
hypotensive to ___, IVF were started and he was sent here 
for further evaluation. 

Pt notes that he has not had melena in ___ years, was feeling 
well until last night when he felt lightheaded when he woke up 
to use the bathroom before bed, today he was getting dressed, he 
felt dizzy he slipped and fell (denies head strike) and was 
unable to get up. At which point he called he wife to help. He 
passed one large dark tarry stool. Otherwise denying CP, SOB, 
fevers,
chills. +Cough and rhinnorhea x5 days.

In the ED,  
- Exam: 
Gen - pale appearing older gentleman
HEENT - + pallor, MMM 
CV - irregularly irregular, no M/R/G 
Pulm- diminished at bases, no crackles appreciated 
DRE - + melanotic stool in rectal vault, hemoccult + 
- Labs: Hgb 6.8 from 11.7 on ___, Plt 160, INR 1.3
- Imaging: Normal CXR
- Consults: GI
- Interventions: 2L IVF 1U PRBC, 40MG Pantoprazole IV 

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
Paroxysmal Atrial Fibrillation
Macular Degeneration
CAD s/p CABG with DES to LAD ___
Morbid obesity
S/P lumbar fusion
Benign neuroendocrine tumor of stomach
___ esophagus
Gastric ulcer 
Colonic adenoma 
RCC s/p nephrectomy
CKD (chronic kidney disease), stage III
BPH
Osteoarthitis
BASAL CELL CARCINOMA, rt chest
Hearing loss, sensorineural 
Hyperlipidemia
 
Social History:
___
Family History:
Father with AAA (smoker)
 
Physical Exam:
ADMISSION
=========
VS: Reviewed in Metavision
GEN: Sleepy but easily arousable, no acute distress
HEENNT: NC/AT, PERRLA, EOMI 
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB
GI: NT/ND, BS+
NEURO: CNII-XII grossly intact, no focal neurologic deficit

DISCHARGE
=========
24 HR Data (last updated ___ @ 1514)
Temp: 98.2 (Tm 98.5), BP: 144/64 (127-145/64-75), HR: 62 
(52-64),
RR: 20 (___), O2 sat: 99% (97-99), O2 delivery: RA, Wt: 223.32
lb/101.3 kg   
Gen: lying comfortably in bed in NAD
HEENT: PERRL, EOMI, OP clear
CV: RRR, nl S1, S2, no m/r/g
Chest: CTAB
Abd: + BS, soft, NT, ND
MKS: lower ext warm without edema
Skin: no rashes
Neuro: AOx3, non-focal
Psych: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION
=========
___ 07:13PM   ___ PTT-29.9 ___
___ 07:13PM   ALBUMIN-3.1* CALCIUM-8.4 PHOSPHATE-2.4* 
MAGNESIUM-2.0
___ 07:13PM   cTropnT-<0.01
___ 07:13PM   ALT(SGPT)-45* AST(SGOT)-23 ALK PHOS-69 TOT 
BILI-0.2
___ 07:13PM   estGFR-Using this
___ 07:13PM   GLUCOSE-116* UREA N-77* CREAT-1.0 SODIUM-142 
POTASSIUM-4.9 CHLORIDE-115* TOTAL CO2-20* ANION GAP-7*
___ 07:42PM   PLT COUNT-160
___ 07:42PM   NEUTS-78.0* LYMPHS-11.1* MONOS-8.2 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-5.10 AbsLymp-0.73* AbsMono-0.54 
AbsEos-0.04 AbsBaso-0.02
___ 07:42PM   WBC-6.6 RBC-2.44* HGB-6.8* HCT-21.7* MCV-89 
MCH-27.9 MCHC-31.3* RDW-14.9 RDWSD-47.8*
___ 08:08PM   LACTATE-1.9
___ 10:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:40PM URINE  UHOLD-HOLD
___ 10:40PM URINE  HOURS-RANDOM

INTERVAL
========
___ 05:15AM BLOOD ALT-66* AST-41* LD(LDH)-157 AlkPhos-68 
TotBili-0.5
___ 06:24AM BLOOD ALT-51* AST-24 AlkPhos-77 TotBili-0.4
___ 06:44AM BLOOD ALT-46* AST-21 AlkPhos-83 TotBili-0.4
___ 06:14AM BLOOD ALT-51* AST-29 AlkPhos-101 TotBili-0.3
___ 03:56AM BLOOD WBC-6.9 RBC-2.58* Hgb-7.1* Hct-22.3* 
MCV-86 MCH-27.5 MCHC-31.8* RDW-15.1 RDWSD-47.3* Plt ___
___ 07:55AM BLOOD WBC-6.4 RBC-2.68* Hgb-7.4* Hct-23.1* 
MCV-86 MCH-27.6 MCHC-32.0 RDW-15.9* RDWSD-49.1* Plt ___
___ 02:35PM BLOOD WBC-5.7 RBC-2.65* Hgb-7.7* Hct-23.1* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-15.9* RDWSD-49.7* Plt ___
___ 07:50PM BLOOD WBC-6.4 RBC-2.80* Hgb-7.9* Hct-24.5* 
MCV-88 MCH-28.2 MCHC-32.2 RDW-16.2* RDWSD-51.2* Plt ___
___ 05:15AM BLOOD WBC-6.3 RBC-2.88* Hgb-8.2* Hct-25.4* 
MCV-88 MCH-28.5 MCHC-32.3 RDW-16.5* RDWSD-51.8* Plt ___
___ 02:00PM BLOOD WBC-7.2 RBC-3.27* Hgb-9.3* Hct-29.4* 
MCV-90 MCH-28.4 MCHC-31.6* RDW-16.9* RDWSD-54.4* Plt ___
___ 06:24AM BLOOD WBC-4.6 RBC-2.62* Hgb-7.5* Hct-23.2* 
MCV-89 MCH-28.6 MCHC-32.3 RDW-16.6* RDWSD-52.1* Plt ___
___ 11:22AM BLOOD WBC-4.4 RBC-2.83* Hgb-7.9* Hct-25.6* 
MCV-91 MCH-27.9 MCHC-30.9* RDW-16.8* RDWSD-53.6* Plt ___
___ 06:44AM BLOOD WBC-4.5 RBC-2.73* Hgb-7.7* Hct-24.6* 
MCV-90 MCH-28.2 MCHC-31.3* RDW-16.8* RDWSD-53.1* Plt ___
___ 03:00PM BLOOD WBC-4.1 RBC-2.86* Hgb-8.1* Hct-26.2* 
MCV-92 MCH-28.3 MCHC-30.9* RDW-16.9* RDWSD-54.2* Plt ___

DISCHARGE
=========
___ 03:30PM BLOOD WBC-4.6 RBC-2.75* Hgb-7.9* Hct-25.3* 
MCV-92 MCH-28.7 MCHC-31.2* RDW-16.8* RDWSD-55.8* Plt ___
___ 03:30PM BLOOD Plt ___
___ 03:30PM BLOOD PTT-83.3*
___ 06:14AM BLOOD Glucose-88 UreaN-19 Creat-1.2 Na-146 
K-3.7 Cl-114* HCO3-22 AnGap-10
___ 06:14AM BLOOD ALT-51* AST-29 AlkPhos-101 TotBili-0.3
___ 06:14AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.1

IMAGING
=======
___ CXR: No acute cardiopulmonary abnormality.

___ EGD: The stomach was examined carefully and red blood was 
suctioned from the stomach. Active extravasation was seen at the 
site of the prior polypectomy with clot overlying previously 
placed endoclips. The clot was washed to reveal the prior clips. 
8 nL epinephrine ___ injection followed by three endoclips 
were successfully applied to the prior polypectomy for the 
purpose of hemostasis. All of the blood could not be suctioned 
from the stomach due to large clots and so a part of the stomach 
was not well visualized.

MICRO
=====
___: Blood Culture
Blood Culture, Routine (Pending):    No growth to date. 

___: Urine Culture
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
___ with a history of pAF on xarelto, CAD s/p DES to LAD (___), 
HTN, HLD, RCC s/p nephrectomy, PUD, GERD, gastric neuroendocrine 
tumor s/p surveillance EGD on ___ with polypectomy p/w UGI 
bleeding at site of recent gastric polypectomy site, now s/p 
repeat EGD with clipping.

# Upper GI post-polypectomy bleeding:
# Normocytic anemia:
P/w bleeding at site of recent gastric polypectomy with Hgb 6.8. 
Initially admitted to the ICU but never required pressors. S/p 
repeat EGD ___ with placement of 3 endoclips (in addition to 2 
previously placed) and epi injection with hemostasis. Home 
Xarelto/ASA held for ___ post-procedure with stable Hgb, 
followed by resumption of ASA and therapeutic anticoagulation 
with hep gtt for >24h with stable Hgb and without evidence of 
active bleeding. He was tolerating a regular diet without 
further melena at discharge. Home Xarelto was resumed on the 
evening of discharge. He was instructed to ___ with his PCP 
___ ___ days for repeat CBC; and PCP was notified of this by 
email. Mr. ___ will also ___ with ERCP team for repeat EGD in 
6 months. Hgb 7.9 on discharge. Home PPI continued on d/c.

#pAF: 
Now in NSR s/p successful DCCV ___. CHADs-Vasc 4. Home 
rivaroxaban held on admission given active bleeding, resumed on 
the day of discharge after 24h of therapeutic heparin challenge 
without further bleeding. Home amiodarone and metoprolol 
continued on d/c.

# CAD:
# HFpEF:
# HTN:
EF 55%. Appeared euvolemic. Home torsemide, losartan, and Imdur 
were held on discharge in setting of GI bleed and normotension, 
to be resumed by PCP at ___. Home ASA initially held, resumed 
prior to discharge. Continued home metoprolol. D/c weight
101.3kg.

# Transaminitis: 
ALT mildly elevated in 40-50 range; etiology unclear, amiodarone 
use. Stable, and further w/u deferred to PCP.

# Hx of gastric neuroendocrine tumor:
Recent path negative for recurrent disease. ___ with outpatient 
GI.

# BPH: 
Held tamsulosin in setting of UGIB. Restarted upon discharge. 
Continued home regimen of finasteride and dicyclomine

# Sciatica: continued Amitriptyline, Topiramate

Transitional issues:
===================
[] Patient should have a CBC checked within one week of 
discharge. Hgb/Hct 7.9/25.3 on discharge.
[] Please repeat LFTs in 1 week to further workup and manage 
slight LFT elevations of unclear etiology. 
[] Patient should schedule followup appointments with PCP ___ 
1 week and GI/ERCP for follow up EGD in 6 months. 
[] Patient will need repeat CBC prior to visit with PCP.
[] Patient to hold off on antihypertensive regimen until 
followup with PCP given recent UGIB.
[] Patient to hold off on torsemide until follow-up with PCP.

# Code Status: Full Code (Confirmed)
# Emergency Contact: ___ (Wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Rivaroxaban 20 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Topiramate (Topamax) 25 mg PO BID 
5. Amiodarone 200 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. DICYCLOMine 10 mg PO DAILY 
8. Amitriptyline 10 mg PO QHS 
9. Losartan Potassium 50 mg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Atorvastatin 40 mg PO QPM 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO TID 
13. Torsemide 10 mg PO DAILY 
14. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY  
2.  Amitriptyline 10 mg PO QHS  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  DICYCLOMine 10 mg PO DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  Rivaroxaban 20 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Topiramate (Topamax) 25 mg PO BID  
12. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO TID 
 This medication was held. Do not restart Isosorbide Mononitrate 
(Extended Release) until you follow up with your PCP in ___ week.
13. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until you follow up with 
your PCP in ___ week.
14. HELD- Torsemide 10 mg PO DAILY  This medication was held. Do 
not restart Torsemide until you follow up with your PCP in ___ 
week.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Final Diagnosis:
================
Upper GI Bleed

Secondary Diagnoses:
====================
pAF
transaminitis
CAD
HLD
HFpEF
HTN
BPH
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================
MEDICINE Discharge Worksheet
================================================
Dear Mr. ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted for your bloody bowel movements 

What was done for me while I was in the hospital?
- You were seen by our gastroenterologists who looked in your 
stomach with a scope (Esophagogastroduodenoscopy) and saw that 
the place where they took the polyp was bleeding. They injected 
medication and clipped it to make it stop bleeding. You were 
also given blood because you lost a fair amount in your stool. 
- You were restarted on your blood thinners while in the 
hospital and did not bleed again.

What should I do when I leave the hospital?
- Please hold off from taking your Isosorbide mononitrate 
(Imdur) and losartan until you meet with your primary care 
physician within the week. Also, hold from taking your torsemide 
(unless you notice significant weight gain in the next few days) 
until you meet with your primary care physician within the week.
- Please call your primary care physician on ___ to be seen 
within one week of leaving the hospital ___ is their 
office number). Additionally, please follow up with them 
regarding having a blood draw prior to the visit. 
- Please call the ___ Advanced Endoscopy (___) at ___ to schedule an appointment 
with the GI doctors for ___ follow-up endoscopy in 6 months 
___ is the office number).
- Please make sure you call us if you start having bloody or 
black bowel movements again. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___